US07964618B2
2,6-dichloro-N-cyclohexyl-pyridine-3-carboxamide
To a solution of 2,6-dichloronicotinic acid (5.005 g, 26.18 mmol) in DCM (60 ML) was added a few drops of DMF followed by the addition dropwise of oxalyl chloride (2.27 mL, 26.18 mmol). The reaction was stirred at room temperature for two hours until gas bubbling had stopped. The solvent was evaporated under reduced pressure to give an oil. DCM (60 mL) was added and the reaction mixture was cooled in an ice bath. Cyclohexylamine (5.98 mL, 52.36 mmol) was added slowly keeping the temperature below 15° C. The reaction was stirred at room temperature overnight.

reactant | 2,6-dichloronicotinic acid | 26.18 mmol, 5.005 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | oxalyl chloride | 26.18 mmol, 2.27 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Cyclohexylamine | 52.36 mmol, 5.98 mL | C1(CCCCC1)N | C6H13N
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 2,6-dichloro-N-cyclohexyl-pyridine-3-carboxamide | ClC1=NC(=CC=C1C(=O)NC1CCCCC1)Cl | C12H14Cl2N2O
